2140-12-22 06:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2140-12-21**] 08:12 AM
   - palliative care c/s placed
   - family meeting held to discuss goals of care. Patient is DNR/DNI, but
   plan to continue current level of support overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-12-21**] 08:00 AM
   Infusions:
   Norepinephrine - 0.13 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-12-21**] 08:04 PM
   Morphine Sulfate - [**2140-12-21**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-22**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.5
   HR: 91 (84 - 110) bpm
   BP: 105/52(71) {72/42(54) - 140/75(357)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  9,777 mL
                                                                    154 mL
   PO:
             TF:
   IVF:
                                                                  1,027 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  1,046 mL
                                                                    200 mL
   Urine:
                                                                    546 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,731 mL
                                                                    -46 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   293 K/uL
   10.4 g/dL
   108 mg/dL
   0.7 mg/dL
   18 mEq/L
   4.0 mEq/L
   36 mg/dL
   110 mEq/L
   136 mEq/L
   29.2 %
   17.2 K/uL
        [image002.jpg]
                             [**2140-12-21**]  03:10 AM
                             [**2140-12-21**]  07:01 AM
                             [**2140-12-22**]  04:23 AM
   WBC
   16.2
   15.9
   17.2
   Hct
   31.7
   31.6
   29.2
   Plt
   280
   343
   293
   Cr
   0.8
   0.7
   Glucose
   259
   108
   Other labs: PT / PTT / INR:15.5/31.8/1.3, ALT / AST:46/35, Alk Phos / T
   Bili:190/1.2, Differential-Neuts:89.9 %, Lymph:7.8 %, Mono:2.1 %,
   Eos:0.1 %, Lactic Acid:3.4 mmol/L, Albumin:2.2 g/dL, LDH:166 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 PULMONARY EMBOLISM (PE), ACUTE
 CANCER (MALIGNANT NEOPLASM), PANCREAS
   79 year-old male with a history of DM, pancreatic cancer s/p
   chemoradiation complicated by recent ascending cholangitis and
   malnutrition on TPN, who presents with weakness and abdominal pain,
   found to have multiple/bilateral PEs and also hematemesis in the ED
   # Hypotension/Shock: possible etiologies include obstructive from his
   submassive PEs; septic, from possibly a GI (SBP or gastroenteritis)
   source; vs hypovolemic from bleeding.
   - volume resuscitated with 7L NS + 2 units PRBCs in the ED
   - consider placing IJ for CVP monitoring
   - levophed rather than dopamine (due to tachycardia) to keep MAP >= 65
   - trend lactate
   # Hematemesis: possible causes include AVM, gastritis, PUD, erosion of
   metastatic disease, or portal hypertension from portal v thrombosis
   leading to varices. Gen surgery reviewed his CT scans with radiology
   and did not see any compelling signs of vascular invasion or varices
   that would explain his massive hematemesis, although CT has low
   sensitivity for this diagnosis.
   - two large bore PIVs
   - active type and crossmatch 4 units; serial Hct
   - pantoprazole 40mg IV BID
   - GI planning scope in am if stable, otherwise, would need angio for
   localization/hemostasis if rebleeds
   # Bilateral PE: The patient was found on chest CT to have b/l PE. This
   was likely secondary to his procoagulant state secondary to pancreatic
   cancer (Trousseau's syndrome). Anticoagulation is contraindicated [**1-2**]
   massive hematemesis.
   # Pancreatic cancer:  The patient completed a course of chemoradiation
   with 5-FU and EBRT on [**11-11**] which included 5 endoscopic US-guided
   intratumoral injections of TNFerade. Given his issues with malnutrition
   and poor functional status further chemo has been deferred.
   - Will speak with his outpatient oncologist in the am.
   # Malnutrition:  The patient was recently started on TPN as dysphagia
   has been a significant problem for him.  His dysphagic is thought to be
   due to malnutrition-related oropharyngeal myopahty.
   - TPN on hold [**1-2**] no access
   - Nutrition consult.
   - Decadron 4 mg [**Hospital1 **] to decrease nausea as well as compazine.
   # Anasarca: The patient is on aldactone and lasix for anasarca that is
   thought to be related to malnutrition. Hold diuretics for now.
   # Diabetes: The patient is on glipizide as an outpatient.  In the ED
   his serum glucose was 363 and he had glucose in his urine, although no
   ketones.
   - Will hold glipizide for now.
   - Monitor sugars with qid fingersticks and cover with SSI.
   # Hyponatremia: Na of 130 on initial labs in the ED; up to 135 after
   volume resuscitation, likely hypovolemic hyponatremia [**1-2**] diuretic use
   at home. Continue to monitor sodium.
   # Depression: Continue remeron.
   # Sacral dcubitus ulcuer: The patient has a known decubitus ulcer and
   received VNA-wound care services at home.
   - Will obtain a wound consult.
   # FEN:  TPN and nutrition consult as above
   # Access: Port-a-cath, 2 18g PIVs
   # PPx: pneumoboots (no heparin [**1-2**] bleeding), bowel regimen, ppi as
   above
   # Code: DNR/DNI if he should actually suffer a cardiac or respiratory
   arrest, but full supportive measures including pressors, transfusions,
   and invasive monitoring lines otherwise
   # Dispo: ICU
   # Comm: with patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2140-12-21**] 05:00 AM
   18 Gauge - [**2140-12-21**] 05:00 AM
   Arterial Line - [**2140-12-21**] 08:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2140-12-22 11:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pain controlled. no complaints. Norepi gtt titrated up for asymptomatic
   hypotension overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-12-22**] 08:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-12-22**] 08:00 AM
   Morphine Sulfate - [**2140-12-22**] 09:00 AM
   Other medications:
   Megace (held), RISS, Lipitor, MSO4 IV prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-22**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 90 (90 - 109) bpm
   BP: 92/51(67) {72/42(54) - 140/73(97)} mmHg
   RR: 15 (15 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  9,777 mL
                                                                    340 mL
   PO:
             TF:
   IVF:
                                                                  1,027 mL
                                                                    340 mL
   Blood products:
   Total out:
                                                                  1,046 mL
                                                                    405 mL
   Urine:
                                                                    546 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,731 mL
                                                                    -65 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   293 K/uL
   108 mg/dL
   0.7 mg/dL
   18 mEq/L
   4.0 mEq/L
   36 mg/dL
   110 mEq/L
   136 mEq/L
   29.2 %
   17.2 K/uL
        [image002.jpg]
                             [**2140-12-21**]  03:10 AM
                             [**2140-12-21**]  07:01 AM
                             [**2140-12-22**]  04:23 AM
   WBC
   16.2
   15.9
   17.2
   Hct
   31.7
   31.6
   29.2
   Plt
   280
   343
   293
   Cr
   0.8
   0.7
   Glucose
   259
   108
   Other labs: PT / PTT / INR:15.5/31.8/1.3, ALT / AST:46/35, Alk Phos / T
   Bili:190/1.2, Differential-Neuts:89.9 %, Lymph:7.8 %, Mono:2.1 %,
   Eos:0.1 %, Lactic Acid:3.4 mmol/L, Albumin:2.2 g/dL, LDH:166 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   End stage Pancreatic CA - Patient requesting comfort measures only
   -per pt and family mtg yesterday everyoen in agreement to make CMO/
   Hospice
   -Morphine as needed
   PE's - treatment precluded by GI bleed ppt'd by heparin
   Abdom Pain - ascites, underlying malig
   -palliation as above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2140-12-21**] 05:00 AM
   18 Gauge - [**2140-12-21**] 05:00 AM
   Arterial Line - [**2140-12-21**] 08:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes

2140-12-23 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - After family meeting pt decided to be CMO
   - Will d/c A-line in the AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-12-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-12-22**] 08:00 AM
   Morphine Sulfate - [**2140-12-22**] 03:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-23**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 101 (88 - 104) bpm
   BP: 104/51(69) {86/40(55) - 124/62(82)} mmHg
   RR: 22 (15 - 25) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                    478 mL
                                                                     71 mL
   PO:
             TF:
   IVF:
                                                                    478 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                     60 mL
   Urine:
                                                                    780 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -302 mL
                                                                     11 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Distended, Tender: mild periumbilical TTP, bulging flanks
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, and time, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   293 K/uL
   10.4 g/dL
   108 mg/dL
   0.7 mg/dL
   18 mEq/L
   4.0 mEq/L
   36 mg/dL
   110 mEq/L
   136 mEq/L
   29.2 %
   17.2 K/uL
        [image002.jpg]
                             [**2140-12-21**]  03:10 AM
                             [**2140-12-21**]  07:01 AM
                             [**2140-12-22**]  04:23 AM
   WBC
   16.2
   15.9
   17.2
   Hct
   31.7
   31.6
   29.2
   Plt
   280
   343
   293
   Cr
   0.8
   0.7
   Glucose
   259
   108
   Other labs: PT / PTT / INR:15.5/31.8/1.3, ALT / AST:46/35, Alk Phos / T
   Bili:190/1.2, Differential-Neuts:89.9 %, Lymph:7.8 %, Mono:2.1 %,
   Eos:0.1 %, Lactic Acid:3.4 mmol/L, Albumin:2.2 g/dL, LDH:166 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   79 year-old male with a history of DM, pancreatic cancer s/p
   chemoradiation complicated by recent ascending cholangitis and
   malnutrition on TPN, who presents with weakness and abdominal pain,
   found to have multiple/bilateral PEs and also hematemesis in the ED
   # Hypotension/Shock: possible etiologies include obstructive from his
   submassive PEs; septic, from possibly a GI (SBP or gastroenteritis)
   source; vs hypovolemic from bleeding.
   - volume resuscitated with 7L NS + 2 units PRBCs in the ED
   - consider placing IJ for CVP monitoring
   - levophed rather than dopamine (due to tachycardia) to keep MAP >= 65
   - trend lactate
   # Hematemesis: possible causes include AVM, gastritis, PUD, erosion of
   metastatic disease, or portal hypertension from portal v thrombosis
   leading to varices. Gen surgery reviewed his CT scans with radiology
   and did not see any compelling signs of vascular invasion or varices
   that would explain his massive hematemesis, although CT has low
   sensitivity for this diagnosis.
   - two large bore PIVs
   - active type and crossmatch 4 units; serial Hct
   - pantoprazole 40mg IV BID
   - GI planning scope in am if stable, otherwise, would need angio for
   localization/hemostasis if rebleeds
   # Bilateral PE: The patient was found on chest CT to have b/l PE. This
   was likely secondary to his procoagulant state secondary to pancreatic
   cancer (Trousseau's syndrome). Anticoagulation is contraindicated [**1-2**]
   massive hematemesis.
   # Pancreatic cancer:  The patient completed a course of chemoradiation
   with 5-FU and EBRT on [**11-11**] which included 5 endoscopic US-guided
   intratumoral injections of TNFerade. Given his issues with malnutrition
   and poor functional status further chemo has been deferred.
   - Will speak with his outpatient oncologist in the am.
   # Malnutrition:  The patient was recently started on TPN as dysphagia
   has been a significant problem for him.  His dysphagic is thought to be
   due to malnutrition-related oropharyngeal myopahty.
   - TPN on hold [**1-2**] no access
   - Nutrition consult.
   - Decadron 4 mg [**Hospital1 **] to decrease nausea as well as compazine.
   # Anasarca: The patient is on aldactone and lasix for anasarca that is
   thought to be related to malnutrition. Hold diuretics for now.
   # Diabetes: The patient is on glipizide as an outpatient.  In the ED
   his serum glucose was 363 and he had glucose in his urine, although no
   ketones.
   - Will hold glipizide for now.
   - Monitor sugars with qid fingersticks and cover with SSI.
   # Hyponatremia: Na of 130 on initial labs in the ED; up to 135 after
   volume resuscitation, likely hypovolemic hyponatremia [**1-2**] diuretic use
   at home. Continue to monitor sodium.
   # Depression: Continue remeron.
   # Sacral dcubitus ulcuer: The patient has a known decubitus ulcer and
   received VNA-wound care services at home.
   - Will obtain a wound consult.
   # FEN:  TPN and nutrition consult as above
   # Access: Port-a-cath, 2 18g PIVs
   # PPx: pneumoboots (no heparin [**1-2**] bleeding), bowel regimen, ppi as
   above
   # Code: DNR/DNI if he should actually suffer a cardiac or respiratory
   arrest, but full supportive measures including pressors, transfusions,
   and invasive monitoring lines otherwise
   # Dispo: ICU
   # Comm: with patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2140-12-21**] 05:00 AM
   18 Gauge - [**2140-12-21**] 05:00 AM
   Arterial Line - [**2140-12-21**] 08:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2140-12-23 10:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No events. No pain. Some nausea- given Zofran.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-12-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2140-12-23**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-23**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 93 (88 - 104) bpm
   BP: 96/51(66) {86/40(55) - 124/62(82)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    478 mL
                                                                    109 mL
   PO:
             TF:
   IVF:
                                                                    478 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    140 mL
   Urine:
                                                                    780 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -302 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   293 K/uL
   108 mg/dL
   0.7 mg/dL
   18 mEq/L
   4.0 mEq/L
   36 mg/dL
   110 mEq/L
   136 mEq/L
   29.2 %
   17.2 K/uL
        [image002.jpg]
                             [**2140-12-21**]  03:10 AM
                             [**2140-12-21**]  07:01 AM
                             [**2140-12-22**]  04:23 AM
   WBC
   16.2
   15.9
   17.2
   Hct
   31.7
   31.6
   29.2
   Plt
   280
   343
   293
   Cr
   0.8
   0.7
   Glucose
   259
   108
   Other labs: PT / PTT / INR:15.5/31.8/1.3, ALT / AST:46/35, Alk Phos / T
   Bili:190/1.2, Differential-Neuts:89.9 %, Lymph:7.8 %, Mono:2.1 %,
   Eos:0.1 %, Lactic Acid:3.4 mmol/L, Albumin:2.2 g/dL, LDH:166 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   End stage Pancreatic CA - Patient requesting comfort measures only
   -per pt and family mtg yesterday everyoen in agreement to make CMO/
   Hospice
   -Morphine as needed
   PE's - treatment precluded by GI bleed ppt'd by heparin
   Abdom Pain - ascites, underlying malig
   -palliation as above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2140-12-21**] 05:00 AM
   18 Gauge - [**2140-12-21**] 05:00 AM
   Arterial Line - [**2140-12-21**] 08:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Comfort measures only
   Disposition :Transfer to floor
   Total time spent: 30 minutes